US08168667B2
4-[4-(4-hydroxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-methoxybenzonitrile
The procedure of Example C is used, with 4-cyano-3-methoxyphenyl isocyanate starting from 2.2 g of methyl 2-amino-2-(4-hydroxyphenyl)propionate. After chromatography over silica and evaporation of the solvents 3.6 g of product, a yellowish solid, is obtained (Yd=92%).

reactant | 4-cyano-3-methoxyphenyl isocyanate | C(#N)C1=C(C=C(C=C1)N=C=O)OC | C9H6N2O2
reactant | methyl 2-amino-2-(4-hydroxyphenyl)propionate | 2.2 g | NC(C(=O)OC)(C)C1=CC=C(C=C1)O | C10H13NO3
product | 4-[4-(4-hydroxyphenyl)-4-methyl-2,5-dioxoimidazolidin-1-yl]-2-methoxybenzonitrile | OC1=CC=C(C=C1)C1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)OC)=O)C | C18H15N3O4
